### PR TITLE
Prove termination of `LMonoTy[s].resolveAliases`

### PR DESCRIPTION
**Pull request by shigoel**
*Description of changes:*

Refactoring to prove the termination of `resolveAliases`.

`LMonoTy.aliasDef?` can now throw an exception indicating an implementation error, instead of a panic. As such, `resolveAliases` can now also throw an exception.

Minor fixes to proofs and formatting.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 1]
```diff
@@ -550,113 +550,149 @@ instance : Inhabited (Option LMonoTy × TEnv IDMeta) where
...
+                        (fun a => a.name == name && a.typeArgs.length == args.length)
+  match matchingAlias with
+  | none => return (inputMty, Env)
+  | some alias =>
+    -- Create instantiation pair: [alias pattern, alias definition].
+    -- The alias pattern and definition share the same type variables here.
+    let aliasPattern := .tcons name (alias.typeArgs.map .ftvar)
+    let typesToInstantiate := [aliasPattern, alias.type]
+    -- Instantiate both types with fresh variables.
+    -- (FIXME) Would be nice to have the following LHS instead of
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean:575]: Yes, I've encountered this too, and it's annoying. An alternative is `match h: instTypesWithEnv with | (instaniatedTypes, updatedEnv) => ...` but this doesn't work directly with the inline tuple matching AFAIK.

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 2]
```diff
@@ -550,113 +550,149 @@ instance : Inhabited (Option LMonoTy × TEnv IDMeta) where
...
+    -- `instTypesWithEnv`, but Lean erases the RHS needed in the length proof
+    -- below if we do so.
+    -- let (instantiatedTypes, updatedEnv) := ...
+    let instTypesWithEnv := LMonoTys.instantiateEnv alias.typeArgs typesToInstantiate Env
+    have : 1 < instTypesWithEnv.fst.length := by
+      simp [instTypesWithEnv, LMonoTys.instantiateEnv, liftGenEnv, typesToInstantiate]
+      have := @LMonoTys.instantiate_length _ alias.typeArgs typesToInstantiate Env.genEnv _
+      simp [typesToInstantiate] at this
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean]: Think it is better to give a name to the `have` than to use `this`

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 3]
```diff
@@ -550,113 +550,149 @@ instance : Inhabited (Option LMonoTy × TEnv IDMeta) where
...
+    let aliasPattern := .tcons name (alias.typeArgs.map .ftvar)
+    let typesToInstantiate := [aliasPattern, alias.type]
+    -- Instantiate both types with fresh variables.
+    -- (FIXME) Would be nice to have the following LHS instead of
+    -- `instTypesWithEnv`, but Lean erases the RHS needed in the length proof
+    -- below if we do so.
+    -- let (instantiatedTypes, updatedEnv) := ...
+    let instTypesWithEnv := LMonoTys.instantiateEnv alias.typeArgs typesToInstantiate Env
+    have : 1 < instTypesWithEnv.fst.length := by
+      simp [instTypesWithEnv, LMonoTys.instantiateEnv, liftGenEnv, typesToInstantiate]
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean]: Minor, but can this be replaced with `simp only[instTypesWithEnv, LMonoTys.instantiateEnv, liftGenEnv, typesToInstantiate]` to try and avoid non-terminal `simp`s? (I don't think it matters as much for a proof like this but wondering)

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 4]
```diff
@@ -550,113 +550,149 @@ instance : Inhabited (Option LMonoTy × TEnv IDMeta) where
...
-    (LConstrs.resolveAliases constrs Env).fst.length = constrs.length := by
-  simp only [LConstrs.resolveAliases]
-  induction constrs <;> grind
+def LConstrs.resolveAliases [ToFormat IDMeta]
+    (constrs : List (LConstr IDMeta)) (Env : TEnv IDMeta) :
+    Except Format (List (LConstr IDMeta) × TEnv IDMeta) := do
+  constrs.foldrM (fun c (acc, Env) => do
+    let (args', Env) ← go c.args Env
+    return ({ c with args := args' } :: acc, Env)) ([], Env)
+  where go args Env := do
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean:654]: I'm a bit confused why we need the `where` clause here (vs inlined as before).

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 5]
```diff
@@ -550,113 +550,149 @@ instance : Inhabited (Option LMonoTy × TEnv IDMeta) where
...
+    return (args', Env)
+
+theorem LConstrs.resolveAliases_length [ToFormat IDMeta]
+  (constrs : List (LConstr IDMeta)) (Env : TEnv IDMeta)
+  (result : List (LConstr IDMeta) × TEnv IDMeta)
+  (h : LConstrs.resolveAliases constrs Env = .ok result) :
+  result.fst.length = constrs.length := by
+  simp only [LConstrs.resolveAliases] at h
+  induction constrs generalizing result with
+  | nil => simp_all [List.foldrM, pure, Except.pure]; grind
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean:668]: Interesting, I'm a bit surprised `grind` can't simplify these automatically.

File: Strata/DL/Lambda/LExprTypeEnv.lean (hunk 4 above)
Comment (shigoel) [reply Strata/DL/Lambda/LExprTypeEnv.lean:654]: Purely for readability in proofs. When fixing `LConstrs.resolveAliases_length`, I liked having the body of this function be a black-box essentially.

File: Strata/DL/Lambda/LExprTypeEnv.lean (hunk 5 above)
Comment (shigoel) [reply Strata/DL/Lambda/LExprTypeEnv.lean:668]: me too, me too.

File: Strata/DL/Lambda/LExprTypeEnv.lean (hunk 1 above)
Comment (shigoel) [reply Strata/DL/Lambda/LExprTypeEnv.lean:575]: Indeed. I've tried using `have` instead of `let`, which also didn't help.
